US07812028B2
d) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 5d, using 5-(4-chloro-phenyl)-6-(2-methoxy-ethoxy)-nicotinic acid and (1R,2R)-2-amino-cyclohexanol as starting materials, MS (ISP) 405.2, 407.2 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-(2-methoxy-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCCOC | C15H14ClNO4
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCOC | C21H25ClN2O4
